US07399759B2
N-Methyl-N-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]-2-thiophenecarboxamide
A mixture of 2-(6-methylamino-2-pyridyl)-4H-1,3-benzothiazine-4-one (0.20 g, 0.74 mmol), 2-thiophenecarbonyl chloride (0.28 g, 1.9 mmol) and N,N-dimethylacetamide (10 ml) was stirred at 80° C. for 2 hrs. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed successively with saturated aqueous sodium hydrogen carbonate solution and brine and dried. The solvent was evaporated. The residue was recrystallized from tetrahydrofuran-hexane to give the titled compound (0.23 g, 83%)

reactant | 2-(6-methylamino-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.74 mmol, 0.20 g | CNC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H11N3OS
reactant | 2-thiophenecarbonyl chloride | 1.9 mmol, 0.28 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-Methyl-N-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]-2-thiophenecarboxamide | 0.23 g, 83% | CN(C(=O)C=1SC=CC1)C1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H13N3O2S2
